US06521666B1
A mixture of 2,6-dimethoxy-4-(thiomorpholinomethyl)benzeneboronic acid (1.1 g), N-(2,6-dichlorobenzoyl)-4bromo-L-phenylalanine ethyl ester (0.71 g), Pd(PPh3)4 (1.0 g) and K2CO3 (1.00 g) in DME/H2O (10 mL/0.5 mL) was heated at 80° C. for 6 h under N2. The mixture was worked up and purified according to the procedure described in Example 8-3) to yield 0.15 g of N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-4-(thiomorpholinomethyl)phenyl]-L-phenylalanine ethyl ester. mp. 86-89° C. ESMS: m/z 616 (MH+). HCl salt: mp. 204-205° C.

reactant | 2,6-dimethoxy-4-(thiomorpholinomethyl)benzeneboronic acid | 1.1 g | COC1=C(C(=CC(=C1)CN1CCSCC1)OC)B(O)O | C13H20BNO4S
reactant | N-(2,6-dichlorobenzoyl)-4bromo-L-phenylalanine ethyl ester | 0.71 g | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)Br)=O | C18H16BrCl2NO3
reactant | K2CO3 | 1.00 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DME H2O | 10 mL | COCCOC.O
catalyst | Pd(PPh3)4 | 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2,6-dichlorobenzoyl)-4-[2,6-dimethoxy-4-(thiomorpholinomethyl)phenyl]-L-phenylalanine ethyl ester | 0.15 g | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=C(C=C1OC)CN1CCSCC1)OC)=O | C31H34Cl2N2O5S
